US05493030
To methyl (E) 6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate (Tetrahedron, 28, 4395, 1972) (10.0 g) in dimethylformamide (75 ml) was added t-butyldimethylsilyl chloride (4.97 g) and imidazole (2.24 g). The mixture was heated at 50° C. for 1 hour, then left at room temperature for 24 hours, then poured into water and extracted with ethyl acetate. The extract was washed twice with water, dried over magnesium sulfate and evaporated under vacuum to give methyl (E) 6-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate as a beige solid.

reactant | methyl (E) 6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 10.0 g | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C18H22O6
reactant | t-butyldimethylsilyl chloride | 4.97 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.24 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | methyl (E) 6-(4-t-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C24H36O6Si
